US09303023B2
To a solution of 2-(4-nitro-1H-pyrazol-1-yl)acetaldehyde (1.02 g, 4.97 mmol) in MeCN (18.0 mL), indoline (0.56 mL, 4.95 mmol) dissolved in MeCN (6 mL) was added. The resulting orange solution was stirred at rt for 5 min, then STAB (2.10 g, 9.90 mmol) was added in portions. After stirring at rt for 1 h, the reaction mixture was quenched with water and extracted with DCM (2×). The combined org. layers were concentrated and purification was performed by FC (EtOAc/toluene 2:8) to yield 1-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)indoline as a brown solid. LC-MS conditions A: tR=0.85 min, [M+H]+=259.14.

reactant | 2-(4-nitro-1H-pyrazol-1-yl)acetaldehyde | 4.97 mmol, 1.02 g | [N+](=O)([O-])C=1C=NN(C1)CC=O | C5H5N3O3
reactant | indoline | 4.95 mmol, 0.56 mL | N1CCC2=CC=CC=C12 | C8H9N
solvent | MeCN | 18.0 mL | CC#N | C2H3N
solvent | MeCN | 6 mL | CC#N | C2H3N
product | 1-(2-(4-nitro-1H-pyrazol-1-yl)ethyl)indoline | [N+](=O)([O-])C=1C=NN(C1)CCN1CCC2=CC=CC=C12 | C13H14N4O2
